US06420359B1
b) 11-Cyclopropyl-5,11-dihydro-2-fluoro-4-methyl-8-{2-(4-quinolinyloxy)ethyl-}6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one
Diisopropyl azodicarboxylate (DIAD) (131 μL, 0.66 mmol) was added drop-wise to a solution of 11-(cyclopropyl)-5,11-dihydro-2-fluoro-8-(2-hydroxyethyl)-4methyl-6H-dipyrido[3,2-b:2′,3′-e] [1,4]diazepin-6-one (140 mg, 0.44 mmol), 4-hydroxyquinoline (96.4 mg, 0.66 mmol) and Ph3P (124 mg, 0.66 mmol) in THF (2.2 mL) at room temperature. The mixture was stirred at room temperature for 3 h then was concentrated under reduced pressure. The residue was dissolved in EtOAc (60 mL) and the solution was successively washed with 3 N aqueous NaOH (3×20 mL), aqueous saturated NH4Cl (20 mL) and brine (20 mL) then was dried (MgSO4), filtered and concentrated under reduced pressure. The residue was partially purified by flash chromatography (EtOAc:MeOH; 95:5). The solid was further purified by reverse phase HPLC (CombiPrep ADS-AQ 50×20 mm, 5 μ120 A, 5-100% MeCN+0.10% TFA/water+0.10% TFA in 25 min) to give the bifluoroacetic acid salt of the title compound (104 mg, 43% yield) as a white solid: MS (ESI) m/z 456 (MH)+.

reactant | Diisopropyl azodicarboxylate | 0.66 mmol, 131 μL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | 11-(cyclopropyl)-5,11-dihydro-2-fluoro-8-(2-hydroxyethyl)-4methyl-6H-dipyrido[3,2-b:2′,3′-e] [1,4]diazepin-6-one | 0.44 mmol, 140 mg | C1(CC1)N1C2=C(NC(C3=C1N=CC(=C3)CCO)=O)C(=CC(=N2)F)C | C17H17FN4O2
reactant | 4-hydroxyquinoline | 0.66 mmol, 96.4 mg | OC1=CC=NC2=CC=CC=C12 | C9H7NO
reactant | Ph3P | 0.66 mmol, 124 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | THF | 2.2 mL | C1CCOC1 | C4H8O
product | 11-Cyclopropyl-5,11-dihydro-2-fluoro-4-methyl-8-{2-(4-quinolinyloxy)ethyl-}6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one | 104 mg, 43% yield | C1(CC1)N1C2=C(NC(C3=C1N=CC(=C3)CCOC3=CC=NC1=CC=CC=C31)=O)C(=CC(=N2)F)C | C26H22FN5O2
